US07642264B2
4-(3-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3-chloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.44) (3.12 g, 10.6 mmol) and commercially available 4-iodo-imidazole (2.27 g, 11.7 mmol) according to the general procedure IVa. Obtained as an off-white solid (4.0 g, 83%). MS (ISP) 451.0 [(M+H)+]; mp 202° C.

reactant | 2-chloro-4-(3-chloro-phenyl)-6-trifluoromethyl-pyrimidine | 10.6 mmol, 3.12 g | ClC1=NC(=CC(=N1)C1=CC(=CC=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
reactant | 4-iodo-imidazole | 11.7 mmol, 2.27 g | IC=1N=CNC1 | C3H3IN2
product | 4-(3-Chloro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | ClC=1C=C(C=CC1)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)I | C14H7ClF3IN4
